data/pmechdb/original/mc_train_fold0/raw/train.txt
COC12CCC(C[C:20]1=[O:21])C=C2.C1=CC2=CC=C3C=C[C:10](=CC3=C2C=C1)[Mg:11]Br>>COC12CCC(C[C:20]1([C:10]3=CC4=C5C=CC=CC5=CC=C4C=C3)[O-:21])C=C2.[Mg+:11]Br 10,11=10,20;20,21=21
[B:20](F)(F)F.C1C(=O)C=CC1=[O:10].CCOCC.C1=CC=C(C=C1)C(CO)(CO)C2=CC=CC=C2>>[B-:20]([O+:10]=C1CC(=O)C=C1)(F)(F)F.CCOCC.C1=CC=C(C=C1)C(CO)(CO)C2=CC=CC=C2 10=20,
CC[O:10]CC.C[O+:21](C)[CH3:20].CC(C(=O)N)OC1=CC=CC=C1>>CC[O+:10]([CH3:20])CC.C[O:21]C.CC(C(=O)N)OC1=CC=CC=C1 10=20;20,21=21
C[C+:20]=O.C1=CN[CH:10]=[CH:11]1>>C[C:20](=O)[CH:10]1[CH+:11]C=CN1 10,11=10,20
[C-:10]#CC1=CC=CC=C1.[I:20][I:21].CC[NH2+]CC.CC[NH+](CC)CC>>C1=CC=C(C=C1)C#[C:10][I:20].[I-:21].CC[NH2+]CC.CC[NH+](CC)CC 10=20;20,21=21
[H:20][C:21]1(CCC2(C(C1(C)C)CCC3C24CCC(C(C3)C4)O)C)[O:22][I+:23]5(C6=C(C=CC=C6)C(=O)O5)OC(=O)C.CC(=O)[O-:10].CC(=O)O>>[H:20][O:10]C(=O)C.CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.CC1(C2CCC3CC4CC3(C2(CC[C:21]1=[O:22])C)CCC4O)C.CC(=O)O 10=20;22,23=23;20,21=21,22
CC(=O)OCC1C(C(C(C(O1)OCC=C)OC(=O)C)O)[OH+:21][C:20](C)(C)[OH:10].CC(=O)[O-].O>>C[C:20](=[OH+:10])C.CC(=O)OCC1C(C(C(C(O1)OCC=C)OC(=O)C)O)[OH:21].CC(=O)[O-].O 10=20;20,21=21
[H:20][CH:21]1CC=C([CH:22]1[O:23]P(=O)(Cl)Cl)C.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CC1=CC[CH:21]=[CH:22]1.[O-:23]P(=O)(Cl)Cl 10=20;22,23=23;20,21=21,22
CCO[C:11](=[C:10](C)C(=O)OCC)[O-:12].[CH:20](I)(I)[I:21].[HH].[Na+]>>CCOC(=O)[C:10](C)([CH:20](I)I)[C:11](=[O:12])OCC.[I-:21].[HH].[Na+] 10,11=10,20;20,21=21;12=11
C[P+](C)(C)[CH-:10][CH2:20][OH:21]>>C[P+](C)(C)[CH:10]=[CH2:20].[OH-:21] 10=20;20,21=21
C([CH2:20][O:21]S(=O)Cl)CCl.[Cl-:10]>>C(CCl)[CH2:20][Cl:10].[O-:21]S(=O)Cl 10=20;20,21=21
CCCCCC1=C[C:10](=CC=C1)[C:11](C)([CH:20](C2=CC=CC=C2)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCCCC1=C[C:10](=CC=C1)[CH:20](C2=CC=CC=C2)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
CC(C(C)[Si](C)(C)C)[OH:10].C(=O)(C(F)(F)F)O[C:20](=[O:21])C(F)(F)F.C(=O)(C(F)(F)F)[O-]>>CC(C(C)[Si](C)(C)C)[OH+:10][C:20](C(F)(F)F)([O-:21])OC(=O)C(F)(F)F.C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
CC(CC[OH:10])OS(=O)(=O)C(F)(F)F.CC(=O)O[C:20](=[O:21])C>>CC(CC[OH+:10][C:20](C)([O-:21])OC(=O)C)OS(=O)(=O)C(F)(F)F 10=20;20,21=21
[H:20][Br:21].CC(=CCC[CH:10]=[C:11](C)C)C>>[H:20][CH:10](CCC=C(C)C)[C+:11](C)C.[Br-:21] 10,11=10,20;20,21=21
[H:20][C:21]1(C2=C(C=CC=C2)C3=CC=CC=C31)COC(=O)NC(C)C(=O)[NH3+].C1CC[NH:10]CC1>>[H:20][NH+:10]1CCCCC1.CC(C(=O)[NH3+])NC(=O)OC[C-:21]1C2=C(C=CC=C2)C3=CC=CC=C13 10=20;20,21=21
[H:20][NH+:21](C1=CC=C(C=C1)C2=CC=C(C=C2)S(=O)(=O)C)N=O.[O-:10]S(=O)(=O)[O-].O.[Na+]>>[H:20][O:10]S(=O)(=O)[O-].CS(=O)(=O)C1=CC=C(C=C1)C2=CC=C(C=C2)[NH:21]N=O.O.[Na+] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)OC(C)CCC[NH2:10].C[C:20](=[O:21])OC(=NC1CCCCC1)NC2CCCCC2>>CC1=CC=C(C=C1)S(=O)(=O)OC(C)CCC[NH2+:10][C:20](C)([O-:21])OC(=NC2CCCCC2)NC3CCCCC3 10=20;20,21=21
[H:20][O+:21]=C(CC)C(C)CN(C)C.C[NH:10]C>>[H:20][NH+:10](C)C.CCC(=[O:21])C(C)CN(C)C 10=20;20,21=21
CC(C)[CH:20](C)[Br:21].[OH-:10]>>CC(C)[CH:20](C)[OH:10].[Br-:21] 10=20;20,21=21
[H:20][O+:21]=C1CCC2C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3CC=C.COC1CC2C3CC4=C(C2(CC[N:10]3CC=C)CC1=O)C(=C(C=C4)OC)O.CO.CS(=O)(=O)[O-]>>[H:20][N+:10]1(CCC23CC(=O)C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC)CC=C.COC1=C2C3=C(CC4C5C3(CCN4CC=C)C(O2)C(=[O:21])CC5)C=C1.CO.CS(=O)(=O)[O-] 10=20;20,21=21
C[N:10]1CCCC1.[CH3:20][I:21]>>C[N+:10]1(CCCC1)[CH3:20].[I-:21] 10=20;20,21=21
CC(=O)[O-:10].[CH3:20][O:21][P+:22](C)(C)C>>CC(=O)[O:10][CH3:20].C[P:22](=[O:21])(C)C 10=20;20,21=21,22
[H:20][C:21]12[C:22](=[C:23]3C=CC=C[C:24]3=[NH+:25]1)CCNC2(C(=O)CC4=CC=CC=C4)C(=O)OC(C)(C)C.[OH2:10]>>[H:20][OH2+:10].CC(C)(C)OC(=O)C1([C:21]2=[C:22](CCN1)[C:23]3=[C:24]([NH:25]2)C=CC=C3)C(=O)CC4=CC=CC=C4 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][N:21]=NC1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3)O.[OH-:10].[K+]>>[H:20][OH:10].COC1=C2C3=C(CC4C5(C3(CCN4)C(O2)C(CC5)N=[N-:21])O)C=C1.[K+] 10=20;20,21=21
CC([C:20](=[O:21])OC(=NC1CCCCC1)NC2CCCCC2)NC(=O)OCC3C4=C(C=CC=C4)C5=CC=CC=C35.COC1=CC=C(C=C1)COC(=O)C(CCO)[NH2:10]>>CC([C:20]([NH2+:10]C(CCO)C(=O)OCC1=CC=C(C=C1)OC)([O-:21])OC(=NC2CCCCC2)NC3CCCCC3)NC(=O)OCC4C5=C(C=CC=C5)C6=CC=CC=C46 10=20;20,21=21
CCC1=C(C=CC(=C1)[N+](=O)[O-])C[CH2:20][O:21]S(=O)(=O)C2=CC=C(C=C2)C.C[S-:10]>>CCC1=C(C=CC(=C1)[N+](=O)[O-])C[CH2:20][S:10]C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]C(=O)O[Na].CCOC(=O)C(C[C:10](=[C:11](C)[O-:12])Br)[N+](=O)[O-]>>[H:20][C:10](CC(C(=O)OCC)[N+](=O)[O-])([C:11](=[O:12])C)Br.C(=O)([O-:21])O[Na] 10,11=10,20;20,21=21;12=11
COC(=O)C[C:11](=[CH:10]C(=O)OC)[O-:12].C([CH:20]=[O:21])Cl.C1=CC=[NH+]C=C1.O>>COC(=O)C[C:11](=[O:12])[CH:10]([CH:20](CCl)[O-:21])C(=O)OC.C1=CC=[NH+]C=C1.O 10,11=10,20;20,21=21;12=11
[Li+:20].C1CCC[C-:10]2C(O2)CC1.CCNCC>>[Li:20][C:10]12CCCCCCC1O2.CCNCC 10=20,
[H:20][O+:21]=C(C)OC(C)(O)Cl.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=[O:21])OC(C)(O)Cl 10=20;20,21=21
CCOC(=O)C=CC1=C(C(=CC=C1)F)[CH:20]2[OH+:21]CCC[O:10]2.CC(=O)[O-].O>>CCOC(=O)C=CC1=C(C(=CC=C1)F)[CH:20]=[O+:10]CCC[OH:21].CC(=O)[O-].O 10=20;20,21=21
